US08871189B2
4-((4-Phenoxyphenyl)sulfonyl)-4-(((tetrahydro-2H-pyran-2-yl)oxy)carbamoyl)piperidine was synthesized as shown in FIG. 13. A 200 ml RBF equipped with magnetic stir bar was charged with the 1.5 g of benzyl 4-((4-phenoxyphenyl)sulfonyl)-4-(((tetrahydro-2H-pyran-2-yl)oxy)carbamoyl)piperidine-1-carboxylate compound and 100 mg wet Degussa 5% Palladium on Carbon in 45 ml Methanol. The reaction mixture was purged with Argon for 5 minutes. Hydrogen was then bubbled over the solution for 1 hr. MS analysis (direct infusion) at this point indicated that the reaction was complete. The crude was filtered through Celite and the Celite was washed with 40 ml additional methanol. The methanol solution was concentrated in vacuo to 1.2 g white solid that was vacuum dried for 4 hours to yield 1.1 g product that was used in Step 5. HRMS(observed) M H=451.1737 g/mol.

reactant | benzyl 4-((4-phenoxyphenyl)sulfonyl)-4-(((tetrahydro-2H-pyran-2-yl)oxy)carbamoyl)piperidine-1-carboxylate | 1.5 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C1(CCN(CC1)C(=O)OCC1=CC=CC=C1)C(NOC1OCCCC1)=O | C31H34N2O8S
catalyst | Palladium on Carbon | [Pd] | Pd
solvent | Methanol | 45 ml | CO | CH4O
product | 4-((4-Phenoxyphenyl)sulfonyl)-4-(((tetrahydro-2H-pyran-2-yl)oxy)carbamoyl)piperidine | O(C1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C1(CCNCC1)C(NOC1OCCCC1)=O | C23H28N2O6S
